US08012956B2
4-(aminocarbonyl)-3-nitrobenzoic acid (2.00 g, 9.52 mmol) was suspended in water (50 ml) and sodium bicarbonate (0.80 g, 9.52 mmol) was added. The resulting solution was hydrogenated in the presence of 10% palladium on carbon (300 mg) at 30 psi for 16 hours. The mixture was then filtered through Celite. The filtrate was acidified by addition of concentrated hydrochloric acid and the resulting solid was collected by filtration and dried in vacuo to afford 3-amino-4-(aminocarbonyl)benzoic acid (1.70 g, 99% yield). MS (EI) for C8H8N2O3: 179 (M−H).

reactant | 4-(aminocarbonyl)-3-nitrobenzoic acid | 9.52 mmol, 2.00 g | NC(=O)C1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H6N2O5
reactant | sodium bicarbonate | 9.52 mmol, 0.80 g | C([O-])(O)=O.[Na+]
solvent | water | 50 ml | O | H2O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | 3-amino-4-(aminocarbonyl)benzoic acid | 1.70 g, 99% yield | NC=1C=C(C(=O)O)C=CC1C(=O)N | C8H8N2O3
